US04433152
3.7 g of bis-(o-allylphenyl)sulfite prepared from o-allylphenol and thionyl chloride was dissolved in a solution of 16 ml of dry dimethylformamide and 8 ml of dry pyridine. 2.0 g of 1-amidino-4-piperidinepropionic acid hydrochloride was added with stirring to the resulting solution, and the mixture was stirred at room temperature for 3 hours. The reaction mixture was concentrated under reduced pressure, and the residue was diluted with acetone. The mixture was poured with stirring into ether to give crystals. The crystals were washed in turn with ether, acetone and ether and dried to obtain 2.3 g (yield: 77.2%) of o-allylphenyl 1-amidino-4-piperidinepropionate hydrochloride as colorless crystals having a melting point of 116° to 119° C.

reactant | bis-(o-allylphenyl)sulfite | 3.7 g | C(C=C)C1=C(C=CC=C1)OS(=O)OC1=C(C=CC=C1)CC=C | C18H18O3S
reactant | o-allylphenol | C(C=C)C1=C(C=CC=C1)O | C9H10O
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | 1-amidino-4-piperidinepropionic acid hydrochloride | 2.0 g | Cl.C(N)(=N)N1CCC(CC1)CCC(=O)O
solvent | dimethylformamide | 16 ml | CN(C=O)C | C3H7NO
solvent | pyridine | 8 ml | N1=CC=CC=C1 | C5H5N
product | o-allylphenyl 1-amidino-4-piperidinepropionate hydrochloride | 2.3 g, yield: 77.2% | Cl.C(N)(=N)N1CCC(CC1)CCC(=O)OC1=C(C=CC=C1)CC=C | InChI=1S/C18H25N3O2.ClH/c1-2-5-15-6-3-4-7-16(15)23-17(22)9-8-14-10-12-21(13-11-14)18(19)20;/h2-4,6-7,14H,1,5,8-13H2,(H3,19,20);1H
